US04731358
3-ethoxy-β-carboline
1 ml of isoamylnitrite is added to a suspension of 1 g of 3-amino-β-carboline in 100 ml of ethanol and 2 ml of concentrated sulfuric acid. The mixture is stirred at room temperature for an hour and then refluxed for an hour. As a result, a clear solution is obtained. After cooling, it is poured into a mixture of 100 ml of water and 100 ml of saturated sodium bicarbonate solution. It is extracted three times with 100 ml of ether each time and the evaporation residue of the combined ether extracts is chromatographed (silica gel, methanol/chloroform=95:5) and recrystallized from hexane. Yield: 0.3 g of 3-ethoxy-β-carboline with a melting point of 130°-133° C.

reactant | isoamylnitrite | 1 ml | C(CC(C)C)ON=O | C5H11NO2
reactant | 3-amino-β-carboline | 1 g | NC=1N=CC=2NC3=CC=CC=C3C2C1 | C11H9N3
reactant | water | 100 ml | O | H2O
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
product | 3-ethoxy-β-carboline | C(C)OC=1N=CC=2NC3=CC=CC=C3C2C1 | C13H12N2O
